US07812028B2
a) 5-(4-Chloro-phenyl)-6-(2,2,2-trifluoro-ethoxy)-nicotinic Acid
The title compound was synthesized in analogy to Example 5c, using 6-chloro-5-(4-chloro-phenyl)-nicotinic acid and 2,2,2-trifluoro-ethanol as starting materials, MS (ISP) 330.3 (M−H).

reactant | 6-chloro-5-(4-chloro-phenyl)-nicotinic acid | ClC1=NC=C(C(=O)O)C=C1C1=CC=C(C=C1)Cl | C12H7Cl2NO2
reactant | 2,2,2-trifluoro-ethanol | FC(CO)(F)F | C2H3F3O
product | 5-(4-Chloro-phenyl)-6-(2,2,2-trifluoro-ethoxy)-nicotinic Acid | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)O)C1)OCC(F)(F)F | C14H9ClF3NO3
